US05112960
Simple unit processes allow the conversion of several of the abovementioned X or X1 substituents, or others known in the art, to 5-X- or 5-X1 -adamantane-2-ones where X or X1 may be trialkylsilyloxy, iodo or cyano groups. These moities are stable under the mild conditions used in step 4 of the foregoing reaction sequence. For example, when 5-hydroxyadamantan-2-one is refluxed for 7 hours with 57% hydriodic acid, 5-iodoadamantan-2-one (m.p. 73°-76° C.) is obtained. 5-Carboxyadamantan-2-one, prepared as described in Lantvoev, J.Obshch.Khim., 12, 2361 (1976) or Le Noble, et al., J.Org.Chem., 48, 1101 (1983), after saponification of the methyl ester, can be converted to 5-cyanoadamantan-2-one by the three step procedure of Tabushi, et al., J.Org.Chem., 38, 3447 (1973), used for access to the isomeric 1-cyanoadamantan-2-one through the intermediacy of a keto amide. 5-Trimethylsilyloxyadamantan-2-one (m.p. 34°-38° C.), useful as a protected version of 5-hydroxyadamantan-2-one, allows the use of only one equivalent of base in step 4 of the foregoing reaction sequence to prepare the corresponding enol ether, which can then be desilylated using standard techniques.

reactant | 5-hydroxyadamantan-2-one | OC12CC3C(C(CC(C1)C3)C2)=O | C10H14O2
reactant | hydriodic acid | I | HI
product | 5-iodoadamantan-2-one | IC12CC3C(C(CC(C1)C3)C2)=O | C10H13IO
